US06110910
Preparation of 2-phenyl-7,8-dihydroquinolin-5(6H)-one 3-Aminocyclohexenone (5.55 g, 50 mmol) and 3-dimethylaminopropiophenone hydrochloride (10.65 g, 50 mmol) were suspended in glacial acetic acid (15 mL) and heated at reflux for 1 h. The mixture was cooled to room temperature and cautiously poured into 20% aqueous sodium carbonate. After gas evolution ceased the residue was extracted with chloroform, dried over anhydrous sodium carbonate, filtered and evaporated. Purification by chromatography on silica gel using 1:1 chloroform/dichloromethane as eluant provided 2.95 g (26%) of 2-phenyl-7,8-dihydroquinolin-5(6H)-one as an off-white solid, mp 128-130° C.; 1H NMR (CDCl3) δ8.32 (d, 1H), 8.05 (dd, 2H), 7.66 (d, 2H), 7.55-7.42 (m,3H), 3.21 (t, 2H), 2.72 (t, 2H), 2.22 (m, 2H).

reactant | 2-phenyl-7,8-dihydroquinolin-5(6H)-one 3-Aminocyclohexenone | 50 mmol, 5.55 g | NC1=CC(CCC1)=O.C1(=CC=CC=C1)C1=NC=2CCCC(C2C=C1)=O
reactant | 3-dimethylaminopropiophenone hydrochloride | 50 mmol, 10.65 g | Cl.CN(CCC(=O)C1=CC=CC=C1)C
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 2-phenyl-7,8-dihydroquinolin-5(6H)-one | 2.95 g, 26% | C1(=CC=CC=C1)C1=NC=2CCCC(C2C=C1)=O | C15H13NO
